US07652008B2
1-Chloro-N-{(3R*,4S*)-3,6-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-7-yl} methanesulfonamide
To a solution of t-butyl(3R*,4S*)-7-{[(chloromethyl)sulfonyl]amino}-3-hydroxy-6-methoxy-2,2-dimethyl-3,4-dihydro-2H-1-benzopyran-4-yl(2-phenylethyl)carbamate (400 mg, 0.72 mmol) in dichloromethane (4.0 mL), 1 mol/L solution of boron tribromide in dichloromethane (3.61 mL, 3.61 mmol) was added below freezing point, and the resulting mixture was stirred at 0° C. for 1 hour. Water was added, and the resulting mixture was further stirred for 30 minutes. The resulting solid was filtered off, washed with water and then with chloroform. The solid was dried at 60° C. for 3 hours under reduced pressure, and the aimed product was quantitatively obtained.

reactant | t-butyl(3R*,4S*)-7-{[(chloromethyl)sulfonyl]amino}-3-hydroxy-6-methoxy-2,2-dimethyl-3,4-dihydro-2H-1-benzopyran-4-yl(2-phenylethyl)carbamate | 0.72 mmol, 400 mg | ClCS(=O)(=O)NC1=CC2=C([C@@H]([C@H](C(O2)(C)C)O)N(C(OC(C)(C)C)=O)CCC2=CC=CC=C2)C=C1OC | C26H35ClN2O7S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3.61 mmol, 3.61 mL | ClCCl | CH2Cl2
product | 1-Chloro-N-{(3R*,4S*)-3,6-dihydroxy-2,2-dimethyl-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-7-yl} methanesulfonamide | ClCS(=O)(=O)NC1=CC2=C([C@@H]([C@H](C(O2)(C)C)O)NCCC2=CC=CC=C2)C=C1O | C20H25ClN2O5S
